US08809397B2
To a refluxing mixture of pyridine (14.2 g, 0.180 mol), phosphorus pentachloride (28.0 g, 0.135 mol), and chloroform (100 mL) was added drop-wise a solution of 5-cyanobicyclo[2,2,2]oct-2-ene (12 g, 90 mmol) in chloroform (50 mL). The resulting mixture was heated at reflux for 15 h, cooled, and poured onto ice. The organic layer was concentrated, and the residue was purified by chromatography on silica gel, eluting with mixtures of ethyl acetate (0.5% to 1%) in petroleum ether, to give 5-chloro-5-cyanobicyclo[2,2,2]oct-2-ene (14.3 g, 95% yield) as a white semisolid, 1H NMR (300 MHz, CDCl3) δ 1.3-1.5 (m, 3H), 2.02-2.18 (m, 2H), 2.51 (m, 1H), 2.72 (m, 1H), 3.12 (m, 1H), 6.22 (m, 1H), 6.41 (m, 1H); GCMS (m/z); 167.

reactant | pyridine | 0.180 mol, 14.2 g | N1=CC=CC=C1 | C5H5N
reactant | phosphorus pentachloride | 0.135 mol, 28.0 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 5-cyanobicyclo[2,2,2]oct-2-ene | 90 mmol, 12 g | C(#N)C1C2C=CC(C1)CC2 | C9H11N
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-chloro-5-cyanobicyclo[2,2,2]oct-2-ene | 14.3 g, 95% yield | ClC1(C2C=CC(C1)CC2)C#N | C9H10ClN
